US05468589
p-Bromophenol (50 g, 0.29 mole), ethyl vinyl ether (41.7 g, 0.58 mole) and pyridinium p-toluenesulfonate (1.5 g) were dissolved in methylene chloride (300 ml), followed by reaction with stirring at room temperature for 6 hours. Then 5% aqueous sodium bicarbonate (400 ml) was added to the reaction mixture, and stirred. Then, the organic layer was separated, washed with H2O (300 ml×3), dried over anhydrous MgSO4 and evaporated. The residue (82 g) was distilled under reduced pressure to give 71.1 g of p-bromo-(1-ethoxyethoxy)benzene as a pale yellow oil having a boiling point of 112°-114° C./6 mmHg.

reactant | p-Bromophenol | 0.29 mole, 50 g | C1=CC(=CC=C1O)Br | C6H5BrO
reactant | ethyl vinyl ether | 0.58 mole, 41.7 g | C(=C)OCC | C4H8O
reactant | sodium bicarbonate | 400 ml | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 300 ml | C(Cl)Cl | CH2Cl2
catalyst | pyridinium p-toluenesulfonate | 1.5 g | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
product | p-bromo-(1-ethoxyethoxy)benzene | 71.1 g | BrC1=CC=C(C=C1)OC(C)OCC | C10H13BrO2
